US06884801B1
2-Amino-N-isopropylbenzamide (prepared from isopropylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-isopropylbenzamide.

reactant | 2-Amino-N-isopropylbenzamide | NC1=C(C(=O)NC(C)C)C=CC=C1 | C10H14N2O
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-isopropylbenzamide | N1C(=NCC1)CNC1=C(C(=O)NC(C)C)C=CC=C1 | C14H20N4O
